US09163021B2
7-fluoro-1H-pyrrolo[3,2-c]pyridine
A mixture of 3-(2-ethoxy-vinyl)-5-fluoro-pyridin-4-ylamine (Preparation 63, 3.6 g, 19.2 mmol) and concentrated HCl (10 mL) in EtOH (44 mL) was heated to reflux for 4 hours before cooling and concentrating in vacuo. The residue was basified with saturated aqueous NaHCO3 solution, extracted in DCM, the organic layer collected, dried over sodium sulphate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 20-100% EtOAc in hexane to afford the title compound (1.7 g)

reactant | 3-(2-ethoxy-vinyl)-5-fluoro-pyridin-4-ylamine | 19.2 mmol, 3.6 g | C(C)OC=CC=1C=NC=C(C1N)F | C9H11FN2O
reactant | HCl | 10 mL | Cl | ClH
solvent | EtOH | 44 mL | CCO | C2H6O
product | 7-fluoro-1H-pyrrolo[3,2-c]pyridine | 1.7 g | FC=1C2=C(C=NC1)C=CN2 | C7H5FN2
